US04250176
To a stirred suspension of 3.2 parts of a sodium hydride dispersion 70% in 9 parts of N,N-dimethylformamide is added dropwise, during a 2 hours-period, a mixture of 17.4 parts of 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one, 70.5 parts of 1,5-dichloropentane and 45 parts of N,N-dimethylformamide at 25°-30° C. Upon completion, stirring is continued for 2 hours at room temperature. The reaction mixture is filtered over hyflo and the filtrate is evaporated. The residue is taken up in 90 parts of methylbenzene and the whole is stirred with activated charcoal. The latter is filtered off. The filtrate is washed with water, dried, filtered and evaporated in an oil-bath at 120° C. (water-jet), yielding 1-(5-chloropentyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one as a residue.

reactant | sodium hydride | [H-].[Na+]
reactant | 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one | CC(=C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | 1,5-dichloropentane | ClCCCCCCl | C5H10Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(5-chloropentyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C15H19ClN2O
